US07781443B2
(2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-ethoxycarbonimidoylpyridin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (100 mg) and ethylenediamine (150 μl) are dissolved in ethanol (3 ml), and the mixture is stirred under reflux for 4 hours. After cooling to room temperature, a saturated brine and ethyl acetate are added to the reaction solution. The organic layer is dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (NH-silica gel; hexane: ethyl acetate=1:1→1:2) to give (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(4,5-dihydro-1H-imidazol-2-yl)pyridin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (96 mg). MS (m/z): 651 [M+H]+

reactant | (2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-ethoxycarbonimidoylpyridin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 100 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C=C1CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=N)OCC)CC | C31H33F6N5O4
reactant | ethylenediamine | 150 μl | C(CN)N | C2H8N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
product | (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(4,5-dihydro-1H-imidazol-2-yl)pyridin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 96 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C=C1CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=1NCCN1)CC | C31H32F6N6O3
